US06441017B1
Step J: (R)-2-(tert-Butoxycarbonylamino)-4-(methylmercapto)-N-(3-benzyloxybenzyl)butyramide
To (R)-N-(tert-butoxycarbonyl)methionine (1.20 g, 4.8 mmol) in dry CH2Cl2 (25 mL) under argon were added PYBOP (2.90 g, 5.6 mmol), 3-benzyloxybenzylamine, as described above in Step I, (1.0 g, 4.7 mmol), and N,N-diisopropylethylamine (0.89 mL, 5.1 mmol). The reaction mixture was stirred for 18 hours, then extracted with saturated aqueous NaHCO3 (25 mL), dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with hexane—25% EtOAc to yield the product as a white solid.

reactant | (R)-N-(tert-butoxycarbonyl)methionine | 4.8 mmol, 1.20 g | C(C)(C)(C)OC(=O)N[C@H](CCSC)C(=O)O | C10H19NO4S
reactant | PYBOP | 5.6 mmol, 2.90 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 3-benzyloxybenzylamine | C(C1=CC=CC=C1)OC=1C=C(CN)C=CC1 | C14H15NO
reactant | N,N-diisopropylethylamine | 5.1 mmol, 0.89 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(tert-Butoxycarbonylamino)-4-(methylmercapto)-N-(3-benzyloxybenzyl)butyramide | C(C)(C)(C)OC(=O)N[C@@H](C(=O)NCC1=CC(=CC=C1)OCC1=CC=CC=C1)CCSC | C24H32N2O4S
